US07923555B2
7-Cyclobutyl-5-iodoimidazo[5,1-f][1,2,4]triazin-4-ylamine
To a solution of 1,2,4-triazole (1.28 g, 18.59 mmol) in anhydrous pyridine (10 mL) was added phosphorus oxychloride (POCl3) (0.578 mL, 6.20 mmol) and stirred at rt for 15 min. This mixture was dropwise charged (3.5 min) with a solution of 7-cyclobutyl-5-iodo-3H imidazo[5,1-f][1,2,4]triazin-4-one (0.653 mg 2.07 mmol) in anhydrous pyridine (14 mL) and stirred for 1.5 h. The reaction mixture was cooled to 0° C. quenched with 2M NH3 in isopropanol (IPA) until basic then allowed to reach rt and stirred for an additional 2 h. The reaction mixture was filtered through a fritted Buchner funnel and washed with DCM. The filtrate was concentrated in vacuo and purified by chromatography on silica gel [eluting with 30% EtOAc in DCM] resulting in the title compound as an off-white solid; 1H NMR (CDCl3, 400 MHz) δ 1.93-2.04 (m, 1H), 2.05-2.18 (m, 1H), 2.35-2.45 (m, 2H), 2.49-2.62 (m, 2H), 4.00-4.12 (m, 1H), 7.82 (s, 1H); MS (ES+): m/z 316.08 (100) [MH+], HPLC: tR=2.59 min (MicromassZQ, polar—5 min).

reactant | 1,2,4-triazole | 18.59 mmol, 1.28 g | N1N=CN=C1 | C2H3N3
reactant | phosphorus oxychloride | 6.20 mmol, 0.578 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-cyclobutyl-5-iodo-3H imidazo[5,1-f][1,2,4]triazin-4-one | 2.07 mmol, 0.653 mg | C1(CCC1)C1=NC(=C2C(NC=NN21)=O)I | C9H9IN4O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 14 mL | N1=CC=CC=C1 | C5H5N
product | 7-Cyclobutyl-5-iodoimidazo[5,1-f][1,2,4]triazin-4-ylamine | C1(CCC1)C1=NC(=C2C(=NC=NN21)N)I | C9H10IN5
